### PR TITLE
[Merged by Bors] - refactor: use a junk value for the analytic order of a non-analytic function

### PR DESCRIPTION
**Pull request by YaelDillies**
Currently, the order of an analytic function is called `AnalyticAt.order` and has a single explicit argument `hf : AnalyticAt 𝕜 f z₀`. This means that working with analytic functions results in contexts full of `hf.order` or, worse, `⋯.order`.

This PR makes the `f` and `z₀` arguments explicit, and drops the `hf` one by introducing a junk value of `0` for non-analytic functions. The resulting function is called `analyticOrderAt` and I am also adding a `Nat`-valued version `analyticOrderNatAt` since `(analyticOrderAt f z₀).toNat` was appearing in quite a few lemmas.

---

The same change could be performed for meromorphic functions once you are convinced.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
I like the idea but (a) I never used that part of the library; (b) I have no time to read the `diff` in the next few days.

**Comment by loefflerd** [comment]
Looks reasonable to me – I think it was me who wrote `AnalyticAt.order` and I fully agree that this is an improvement on what I wrote. One minor change: can you drop the `e` and make it `analyticOrderAt`?

**Comment by YaelDillies** [comment]
Not currently, no: `analyticOrderAt` is already the Nat-valued version, which is used in statements involving exponents.

**Comment by loefflerd** [comment]
I’m suggesting that the ‘ENat’ values version should get the nice name, and the Nat valued version be renamed to something else.

**Comment by loefflerd** [comment]
Fair enough, I retract my renaming suggestion.

**Comment by loefflerd** [comment]
Thinking a bit more about this, I think this PR is blending together two changes at once – one of which I have no objection to (using a junk value for non-analytic functions), and one which I'm less happy about (rejigging the names to de-emphasise the role of the `ENat` valued order, and instead giving a name to the `Nat` valued order sending 0 to 0, which did not appear in the library before). 

I'm still not persuaded by the examples
> dist/edist, norm/enorm, diam/ediam, gauge/egauge, Nat/ENat

because in these cases, the non-extended version is a mathematically meaningful and "correct" object in many settings (it's just helpful in certain specific contexts to extend it to allow infinity); whereas here, you always need to allow infinity, and the version with infinity re-mapped to zero is basically an inferior, broken object.

The natural comparison here is `AddValuation`: in mathlib, AddValuations take values in a `LinearOrderedAddCommMonoidWithTop`, and analytic order *is* an AddValuation once you quotient out by functions agreeing locally around x.

**Comment by YaelDillies** [comment]
> I'm still not persuaded by the examples
> 
> > dist/edist, norm/enorm, diam/ediam, gauge/egauge, Nat/ENat
> 
> because in these cases, the non-extended version is a mathematically meaningful and "correct" object in many settings (it's just helpful in certain specific contexts to extend it to allow infinity); whereas here, you always need to allow infinity, and the version with infinity re-mapped to zero is basically an inferior, broken object.

I disagree that the situation is so different. In many existing cases, the extended version is the correct mathematical object, and the truncated version is simply useful because easier to manipulate (eg `Nat.card` vs `ENat.card`). Anyway, here's an alternative naming suggestion.

**Comment by loefflerd** [comment]
I'm happy(-ish) with the naming now, but it looks like there's still a build failure – could you please fix it? Please also modify the docstring for `analyticOrderNat` which still seems to be the same as the `ENat` one.

**Comment by YaelDillies** [comment]
Well spotted! I fixed the docstring

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -11,91 +11,152 @@ import Mathlib.Analysis.Analytic.IsolatedZeros
...
+    analyticOrderAt f z₀ = 0 ↔ f z₀ ≠ 0 := by simp [hf, analyticOrderAt_eq_zero]
+
+@[deprecated (since := "2025-05-03")]
+alias AnalyticAt.order_eq_zero_iff := AnalyticAt.analyticOrderAt_eq_zero
+
+/-- The order of an analytic function `f` at `z₀` is zero iff `f` does not vanish at `z₀`. -/
+protected lemma AnalyticAt.analyticOrderAt_ne_zero (hf : AnalyticAt 𝕜 f z₀) :
+    analyticOrderAt f z₀ ≠ 0 ↔ f z₀ = 0 := hf.analyticOrderAt_eq_zero.not_left
 
 /-- An analytic function vanishes at a point if its order is nonzero when converted to ℕ. -/
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/Order.lean:146]: This docstring doesn't match the content very well any more (analyticity isn't required). I also suggest adding a formulation with `analyticOrderAt`.
```suggestion
/-- An function vanishes at a point if its analytic order is nonzero in `ℕ∞`. -/
lemma apply_eq_zero_of_analyticOrderAt_ne_zero (hf : analyticOrderAt f z₀ ≠ 0) :
    f z₀ = 0 := by
  by_cases hf' : AnalyticAt 𝕜 f z₀ <;> simp_all [analyticOrderAt_eq_zero] 

/-- A function vanishes at a point if its analytic order is nonzero when converted to 
ℕ. -/
```

**Review by loefflerd — COMMENTED** [review]
maintainer delegate

File: Mathlib/Analysis/Analytic/Order.lean [hunk 2]
```diff
@@ -11,91 +11,152 @@ import Mathlib.Analysis.Analytic.IsolatedZeros
...
 
 The order is defined to be `∞` if `f` is identically 0 on a neighbourhood of `z₀`, and otherwise the
 unique `n` such that `f` can locally be written as `f z = (z - z₀) ^ n • g z`, where `g` is analytic
-and does not vanish at `z₀`. See `AnalyticAt.order_eq_top_iff` and `AnalyticAt.order_eq_nat_iff` for
-these equivalences. -/
-noncomputable def order (hf : AnalyticAt 𝕜 f z₀) : ENat :=
-  if h : ∀ᶠ z in 𝓝 z₀, f z = 0 then ⊤
-  else ↑(hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose
+and does not vanish at `z₀`. See `AnalyticAt.analyticOrderAt_eq_top` and
+`AnalyticAt.analyticOrderAt_eq_natCast` for these equivalences. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:38]: Can you mention the junk value in the docstring?

File: Mathlib/Analysis/Analytic/Order.lean [hunk 3]
```diff
@@ -11,91 +11,152 @@ import Mathlib.Analysis.Analytic.IsolatedZeros
...
+  else 0
+
+@[deprecated (since := "2025-05-02")] alias AnalyticAt.order := analyticOrderAt
+
+/-- The order of vanishing of `f` at `z₀`, as an element of `ℕ`.
+
+The order is defined to be `0` if `f` is identically zero on a neighbourhood of `z₀`,
+and is otherwise the unique `n` such that `f` can locally be written as `f z = (z - z₀) ^ n • g z`,
+where `g` is analyticand does not vanish at `z₀`. See `AnalyticAt.analyticOrderAt_eq_top` and
+`AnalyticAt.analyticOrderAt_eq_natCast` for these equivalences. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:52]: ditto

File: Mathlib/Analysis/Analytic/Order.lean [hunk 4]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+@[simp] lemma analyticOrderAt_neg : analyticOrderAt (-f) z₀ = analyticOrderAt f z₀ := by
+  by_cases hf : AnalyticAt 𝕜 f z₀
+  · refine ENat.eq_of_forall_natCast_le_iff fun n ↦ ?_
+    simp only [ natCast_le_analyticOrderAt, hf, hf.neg]
+    exact (Equiv.neg _).exists_congr <| by simp [neg_eq_iff_eq_neg]
+  · rw [analyticOrderAt_of_not_analyticAt hf,
+      analyticOrderAt_of_not_analyticAt <| analyticAt_neg.not.2 hf]
+
+/-- The order of a sum is at least the minimum of the orders of the summands. -/
+theorem le_analyticOrderAt_add (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:202]: You don't need `hf` nor `hg`: if one of the function is not analytic, then its order is zero, so the inequality becomes obvious.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 5]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+  refine fun ⟨⟨F, hF, hF'⟩, ⟨G, hG, hG'⟩⟩ ↦ ⟨F + G, hF.add hG, ?_⟩
+  filter_upwards [hF', hG'] with z using by simp +contextual [mul_add]
+
+@[deprecated (since := "2025-05-03")] alias AnalyticAt.order_add := le_analyticOrderAt_add
+
+lemma le_analyticOrderAt_sub (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀) :
+    min (analyticOrderAt f z₀) (analyticOrderAt g z₀) ≤ analyticOrderAt (f - g) z₀ := by
+  simpa [sub_eq_add_neg] using le_analyticOrderAt_add hf hg.neg
+
+lemma analyticOrderAt_add_eq_left_of_lt (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀)
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:215]: ditto (note that `hfg` ensures that `g` is analytic, so  `f + g` is analytic iff `f` is)

File: Mathlib/Analysis/Analytic/Order.lean [hunk 6]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+    (hfg : analyticOrderAt f z₀ < analyticOrderAt g z₀) :
+    analyticOrderAt (f + g) z₀ = analyticOrderAt f z₀ :=
+  le_antisymm (by simpa [hfg.not_le] using le_analyticOrderAt_sub (hf.add hg) hg)
+    (by simpa [hfg.le] using le_analyticOrderAt_add hf hg)
+
+lemma analyticOrderAt_add_eq_right_of_lt (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀)
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:221]: ditto

File: Mathlib/Analysis/Analytic/Order.lean [hunk 7]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+    (hgf : analyticOrderAt g z₀ < analyticOrderAt f z₀) :
+    analyticOrderAt (f + g) z₀ = analyticOrderAt g z₀ := by
+  rw [add_comm, analyticOrderAt_add_eq_left_of_lt hg hf hgf]
+
+@[deprecated (since := "2025-05-03")] alias order_add_of_order_lt_order := le_analyticOrderAt_add
+
+/-- If two functions have unequal orders, then the order of their sum is exactly the minimum
+of the orders of the summands. -/
+theorem analyticOrderAt_add_of_ne (hf : AnalyticAt 𝕜 f z₀) (hg : AnalyticAt 𝕜 g z₀)
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:230]: ditto

File: Mathlib/Analysis/Analytic/Order.lean [hunk 8]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+    (hfg : analyticOrderAt f z₀ ≠ analyticOrderAt g z₀) :
+    analyticOrderAt (f + g) z₀ = min (analyticOrderAt f z₀) (analyticOrderAt g z₀) := by
+  obtain hfg | hgf := hfg.lt_or_lt
+  · simpa [hfg.le] using analyticOrderAt_add_eq_left_of_lt hf hg hfg
+  · simpa [hgf.le] using analyticOrderAt_add_eq_right_of_lt hf hg hgf
+
+@[deprecated (since := "2025-05-03")]
+alias AnalyticAt.order_add_of_order_ne_order := analyticOrderAt_add_of_ne
+
+lemma analyticOrderAt_smul_eq_top_of_left {f : 𝕜 → 𝕜} (hg : AnalyticAt 𝕜 g z₀)
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:240]: ditto

File: Mathlib/Analysis/Analytic/Order.lean [hunk 9]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
+    (hf : analyticOrderAt f z₀ = ⊤) : analyticOrderAt (f • g) z₀ = ⊤ := by
+  rw [analyticOrderAt_eq_top, eventually_nhds_iff] at *
+  obtain ⟨hf, t, h₁t, h₂t, h₃t⟩ := hf
+  exact ⟨hf.smul hg, t, fun y hy ↦ by simp [h₁t y hy], h₂t, h₃t⟩
+
+lemma analyticOrderAt_smul_eq_top_of_right {f : 𝕜 → 𝕜} (hf : AnalyticAt 𝕜 f z₀)
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean:246]: ditto

**Review by sgouezel — COMMENTED** [review]
I think there are a lot of places where you can remove analyticity assumptions.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 10]
```diff
@@ -114,119 +175,177 @@ lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
...
 namespace AnalyticOnNhd
 
-variable {U : Set 𝕜} (hf : AnalyticOnNhd 𝕜 f U)
+variable {U : Set 𝕜} {f : 𝕜 → E} (hf : AnalyticOnNhd 𝕜 f U)
+include hf
 
 /-- The set where an analytic function has infinite order is clopen in its domain of analyticity. -/
-theorem isClopen_setOf_order_eq_top :
-    IsClopen { u : U | (hf u.1 u.2).order = ⊤ } := by
+theorem isClopen_setOf_analyticOrderAt_eq_top : IsClopen {u : U | analyticOrderAt f u = ⊤} := by
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/Order.lean:339]: I don't see how. The negation of "`f` is analytic everywhere on `U`" isn't "`f` is analytic nowhere on `U`"`

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Order.lean:345]: Hm, you're right. This set is open, but not closed in general.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 11]
```diff
@@ -263,32 +382,32 @@ theorem isClopen_setOf_order_eq_top :
...
+theorem analyticOrderAt_ne_top_of_isPreconnected {x y : 𝕜} (hU : IsPreconnected U) (h₁x : x ∈ U)
+    (hy : y ∈ U) (h₂x : analyticOrderAt f x ≠ ⊤) : analyticOrderAt f y ≠ ⊤ :=
+  (hf.exists_analyticOrderAt_ne_top_iff_forall ⟨nonempty_of_mem h₁x, hU⟩).1 (by use ⟨x, h₁x⟩)
+    ⟨y, hy⟩
 
 /-- The set where an analytic function has zero or infinite order is discrete within its domain of
 analyticity. -/
-theorem codiscrete_setOf_order_eq_zero_or_top :
-    {u : U | (hf u u.2).order = 0 ∨ (hf u u.2).order = ⊤} ∈ Filter.codiscrete U := by
+theorem codiscrete_setOf_analyticOrderAt_eq_zero_or_top :
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Order.lean:405]: I think this one is true: you want to see that the set of points where the order is in `[1, oo)` is discrete. But at such a point, the function is analytic, of positive but finite order, so such a point is isolated.

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Order.lean:404]: At nearby points, if the function is not analytic, then its order is zero, and we're fine.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/Order.lean:404]: Sorry, I still don't think that's true. I could have a function which has a simple pole at 1, 1/2, 1/3, ... but is not analytic at 0. Then 0 is an accumulation point of points of finite non-zero order, so those are not discrete.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Analytic/Order.lean:404]: Here's my best attempt:
```
@[simp] lemma sdiff_sep_self (s : Set α) (p : α → Prop) : s \ {a ∈ s | p a} = {a ∈ s | ¬ p a} :=
  diff_self_inter

omit hf in
/-- The set where a function has finite non-zero analytic order is discrete. -/
theorem codiscrete_setOf_analyticOrderAt_eq_zero_or_top :
    {u ∈ U | analyticOrderAt f u = 0 ∨ analyticOrderAt f u = ⊤} ∈ Filter.codiscreteWithin U := by
  simp_rw [mem_codiscreteWithin, Filter.disjoint_principal_right, sdiff_sep_self, not_or]
  intro x hx
  by_cases hfx : AnalyticAt 𝕜 f x
  · obtain hf₀ | hf₀ := hfx.eventually_eq_zero_or_eventually_ne_zero
    · filter_upwards [eventually_nhdsWithin_of_eventually_nhds hf₀.eventually_nhds] with a ha
      simp [analyticOrderAt_eq_top, ha]
    filter_upwards [hf₀] with a ha
    by_cases hfa : AnalyticAt 𝕜 f a
    · simp [hfa.analyticOrderAt_eq_zero, ha]
    · simp [analyticOrderAt_of_not_analyticAt hfa]
  · sorry
```

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Order.lean:404]: You're absolutely right. I had made a mistake in my interpretation of `Cofinite`. Sorry for wasting your time!

**Review by sgouezel — COMMENTED** [review]
bors r+
Thanks!

**Comment by sgouezel** [comment]
bors r-
bors d+

**Comment by sgouezel** [comment]
Followup for meromorphic functions in #25106
